US05563143
Tetrahydro-5-[3-(4-phenylbutoxy)-4-methoxyphenyl]-2(1H)-pyrimidinone
Diisopropylazodicarboxylate (1.1 ml, 5.70 mmol, 1.2 eq) was added to a mixture of (1.06 g, 4.75 mmol, 1.0 eq) tetrahydro-5-(3-hydroxy-4-methoxyphenyl)-2(1H)-pyrimidinone, (1.37 g, 5.23 mmol, 1.1 eq) triphenylphosphine, and (714 mg, 4.75 mmol, 1.0 eq) 4-phenyl-1-butanol in 20 ml of anhydrous tetrahydrofuran. After heating to reflux for about 18 hours, the reaction mixture was cooled to room temperature, diluted with 350 ml ethyl acetate, washed twice with 1N NaOH, once with H2O, once with brine, dried over Na2SO4, and concentrated to yield an orange solid. Silica gel chromatography eluting with 4% CH3OH--CH2Cl2 yielded 527 mg of a white solid, which was recrystallized from ethyl acetate to afford 480 mg, 29%, of white needles. M.P.: 142°-143° C. Elemental Analysis Calc'd for C21H26N2O3 : Cal'd: C, 71.17; H, 7.40; N, 7.90. Found: C, 71.12; H, 7.32; N, 7.75.

reactant | Diisopropylazodicarboxylate | 5.70 mmol, 1.1 ml, 1.2 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | tetrahydro-5-(3-hydroxy-4-methoxyphenyl)-2(1H)-pyrimidinone | 4.75 mmol, 1.06 g, 1.0 eq | OC=1C=C(C=CC1OC)C1CNC(NC1)=O | C11H14N2O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-phenyl-1-butanol | 4.75 mmol, 714 mg, 1.0 eq | C1(=CC=CC=C1)CCCCO | C10H14O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
product | Tetrahydro-5-[3-(4-phenylbutoxy)-4-methoxyphenyl]-2(1H)-pyrimidinone | 527 mg | C1(=CC=CC=C1)CCCCOC=1C=C(C=CC1OC)C1CNC(NC1)=O | C21H26N2O3
